US04308362
(c) Octene-maleic acid anhydride copolymer
98 Grams of maleic acid anhydride, 112 g of octene-1, 800 g of toluene and 4 g of AIBN were stirred for 9 hours at 90° C. Subsequently the mixture was rotated to dryness, the unreacted starting material being evaporated in the process.

reactant | maleic acid anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | octene-1 | 112 g | CCCCCCC=C | C8H16
reactant | AIBN | 4 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 800 g | C1(=CC=CC=C1)C | C7H8
product | Octene maleic acid anhydride | C=CCCCCCC.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H16.C4H2O3/c1-3-5-7-8-6-4-2;5-3-1-2-4(6)7-3/h3H,1,4-8H2,2H3;1-2H
